US06632810B2
Synthesis of N,N′-bis[(6,7,8-trimethoxynaphthalen-2-yl)methyl]piperazine:
2-Chloromethyl-6,7,8-trimethoxynaphthalene (226 mg) and piperazine (37 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 2-Chloromethyl-6,7,8-trimethoxynaphthalene | 226 mg | ClCC1=CC2=C(C(=C(C=C2C=C1)OC)OC)OC | C14H15ClO3
reactant | piperazine | 37 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[(6,7,8-trimethoxynaphthalen-2-yl)methyl]piperazine | COC=1C=C2C=CC(=CC2=C(C1OC)OC)CN1CCN(CC1)CC1=CC2=C(C(=C(C=C2C=C1)OC)OC)OC | C32H38N2O6
